US05861401
4'-Isobutyl-3'-nitro-2-biphenylsulphonyl chloride (0.353 g) was added to a solution of 2-amino-3-methoxy-5-methylpyrazine (0.139 g) in pyridine (10 ml) at 0° C. The solution was heated at 75° C. for 18 hours and then volatile material was removed by evaporation. The residue was purified by elution with dichloromethane through a silica gel Mega Bond Elut column and the resulting foam was triturated with ether/hexane (1:1 v/v) to give 4'-isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-3'-nitro-2-biphenylsulphonamide (0.18 g), m.p. 114°-115° C.; mass spectrum (+ve CI): 457 (M+H)+.

reactant | 4'-Isobutyl-3'-nitro-2-biphenylsulphonyl chloride | 0.353 g | C(C(C)C)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl)[N+](=O)[O-] | C16H16ClNO4S
reactant | 2-amino-3-methoxy-5-methylpyrazine | 0.139 g | NC1=NC=C(N=C1OC)C | C6H9N3O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4'-isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-3'-nitro-2-biphenylsulphonamide | 0.18 g | C(C(C)C)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC1=NC=C(N=C1OC)C)[N+](=O)[O-] | C22H24N4O5S
